US05574044
A mixture of 8.23 g of ethyl 4-(4-methyl-2-nitroanilino)-1-piperidinecarboxylate, 200 mL of tetrahydrofuran, 225 mL of ethanol and 2 g of 5% platinum on carbon was stirred under an atmosphere of hydrogen for 7 h. The catalyst was filtered off and the filtrate concentrated to to a thick oil. To an ice cold, vigorously stirred solution of the resulting crude ethyl 4-(4-methyl-2-aminoanilino)-1-piperidinecarboxylate in 500 mL of ethyl acetate was added 500 mL of saturated sodium carbonate followed by 20 mL of 1.9 M phosgene in toluene dropwise over 30 min. After stirring overnight at room temperature, the layers were separated and the organic layer dried over MgSO4 and concentrated to dryness. Trituration of the residue with ether-hexane gave 8 g of ethyl 4-(5-methyl-2-oxo-1-benzimidazolinyl)piperidine-1-carboxylate as a white crystalline solid.

reactant | ethyl 4-(4-methyl-2-nitroanilino)-1-piperidinecarboxylate | 8.23 g | CC1=CC(=C(NC2CCN(CC2)C(=O)OCC)C=C1)[N+](=O)[O-] | C15H21N3O4
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
catalyst | platinum on carbon | 2 g | [Pt] | Pt
solvent | ethanol | 225 mL | C(C)O | C2H6O
product | ethyl 4-(5-methyl-2-oxo-1-benzimidazolinyl)piperidine-1-carboxylate | 8 g | CC1=CC2=C(N(C(N2)=O)C2CCN(CC2)C(=O)OCC)C=C1 | C16H21N3O3
